US08193194B2
A solution of methyl 4-aminophenylsulfonylcarbamate (50 mg, 0.2 mmol), N,N-diisopropylethylamine (35 L, 0.2 mmol), 3,4-dichlorobenzylisocyanate (30 L, 0.2 mmol) in acetonitrile was stirred under an N2 atmosphere for 19 h. The mixture was concentrated and the residue purified by reverse phase HPLC using 10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA) to give methyl 4-(3-(3,4-dichlorobenzyl)ureido)phenylsulfonylcarbamate. LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=431.01; tR=2.9 min.

reactant | methyl 4-aminophenylsulfonylcarbamate | 0.2 mmol, 50 mg | NC1=CC=C(C=C1)S(=O)(=O)NC(OC)=O | C8H10N2O4S
reactant | N,N-diisopropylethylamine | 0.2 mmol, 35 L | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3,4-dichlorobenzylisocyanate | 0.2 mmol, 30 L | ClC=1C=C(CN=C=O)C=CC1Cl | C8H5Cl2NO
solvent | acetonitrile | C(C)#N | C2H3N
product | methyl 4-(3-(3,4-dichlorobenzyl)ureido)phenylsulfonylcarbamate | ClC=1C=C(CNC(NC2=CC=C(C=C2)S(=O)(=O)NC(OC)=O)=O)C=CC1Cl | C16H15Cl2N3O5S
